US08383821B2
3′-(((1-Ethyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile.
3′-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile (25.0 mg, 0.05 mmol) and acetaldehyde (0.25 mL, 4.31 mmol) were combined in acetonitrile (2.0 mL) and cooled to 0° C. The reaction was treated with sodium cyanoborohydride (14.0 mg, 0.23 mmol) and a few drops of acetic acid. The reaction was stirred at 0° C. for 30 min and at room temperature for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvents were evaporated to afford 17 mg (79%). 1H-NMR (CDCl3, 500 MHz) δ 7.74-7.75 (m, 2H), 7.66 (s, 1H), 7.59-7.60 (m, 2H), 7.44 (s, 1H), 7.30-7.39 (m, 5H), 7.18-7.21 (m, 1H), 4.45 (s, 2H), 3.48 (s, 2H), 2.76 (s, 2H), 2.39-2.41 (m, 2H), 2.25-2.32 (m, 4H), 2.07-2.11 (m, 2H), 1.09 (t, J=7.0 Hz, 3H). 13C-NMR (CDCl3, 126 MHz) δ 144.0, 141.0, 140.1, 132.8, 131.7 (q, J=32.6 Hz), 129.0, 128.5, 128.0, 127.4, 126.3, 124.0 (q, J=272.6 Hz), 123.9, 123.0, 118.7, 111.9, 72.2, 52.5, 49.5, 41.4, 32.0, 11.8. Mass spec.: 479.15 (MH)+.

reactant | 3′-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | 0.05 mmol, 25.0 mg | C1(=CC=CC=C1)C1(CCNCC1)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C27H25F3N2O
reactant | acetaldehyde | 4.31 mmol, 0.25 mL | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.23 mmol, 14.0 mg | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | 3′-(((1-Ethyl-4-phenylpiperidin-4-yl)methoxy)methyl)-5′-(trifluoromethyl)biphenyl-4-carbonitrile | C(C)N1CCC(CC1)(C1=CC=CC=C1)COCC=1C=C(C=C(C1)C(F)(F)F)C1=CC=C(C=C1)C#N | C29H29F3N2O
